US07351826B2
Step 5. Preparation of 7-Bromomethyl-8-propyl-[1,2,4]triazolo[1,5-c]pyrimidine
Br2 (0.153 ml, 3 mmol) is added dropwise to a solution of 7-methyl-8-propyl-[1,2,4]triazolo[1,5-c]pyrimidine (3 mmol) heated at 100° C. in HOAc (10 ml). After the addition, the mixture is stirred at 100° C. overnight. The solvent is removed in vacuo and the residue dissolved in EtOAc (15 ml), washed with Na2S2O3 solution (sat. 5 ml), followed by NaHCO3 (10 ml), and brine (10 ml). The organic phase is dried (Na2SO4) and evaporated. The resulting yellow oil is purified by PTLC, which provides the title compound.

reactant | Br2 | 3 mmol, 0.153 ml | BrBr | Br2
reactant | 7-methyl-8-propyl-[1,2,4]triazolo[1,5-c]pyrimidine | 3 mmol | CC1=C(C=2N(C=N1)N=CN2)CCC | C9H12N4
solvent | HOAc | 10 ml | CC(=O)O | C2H4O2
product | 7-Bromomethyl-8-propyl-[1,2,4]triazolo[1,5-c]pyrimidine | BrCC1=C(C=2N(C=N1)N=CN2)CCC | C9H11BrN4
